US06213657B1
HOOC—(CH2)4—COOH  B-14
HOOCC≡CCOOH  B-15  HO—CH2—COOH  B-20

reactant | HOOCC≡CCOOH | C(=O)(O)C#CC(=O)O | C4H2O4
reactant | HO—CH2—COOH | OCC(=O)O | C2H4O3
product | HOOC—(CH2)4—COOH | C(=O)(O)CCCCC(=O)O | C6H10O4
